US07381719B2
Part A: 6-Bromopyridine-2-carbonitrile
Take up 2,6-dibromopyridine (0.500 g, 2.11 mmol) and CuCN (0.189 g, 2.11 mmol) in DMF (5.3 mL). Heat at 100° C. for 22 hours. Cool to room temperature. Add water (50 mL) and extract with ethyl acetate (3×100 mL). Wash the organic layer with brine (1×75 mL), dry over Na2SO4, filter and concentrate. Purify by flash chromatography, eluting with 15-40% ethyl acetate in hexanes to give the title compound (0.108 g, 30.0%): GC/MS, MS ES+ 182 (M−H)+, time 8.78 min, % of total 100%; TLC [silica gel 60 F254, 30% ethyl acetate in hexanes] Rf=0.29.

reactant | 2,6-dibromopyridine | 2.11 mmol, 0.500 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | CuCN | 2.11 mmol, 0.189 g | C(#N)[Cu]
solvent | DMF | 5.3 mL | CN(C)C=O | C3H7NO
product | 6-Bromopyridine-2-carbonitrile | 0.108 g, 30.0% | BrC1=CC=CC(=N1)C#N | C6H3BrN2
